US08975254B2
f) N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared from 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile (300 mg) and 3-(pyridine-2-yl)-1H-pyrazole-5-carboxylic acid (161 mg) using the method of Example 34(d). Yield 166 mg. 1H-NMR (400 MHz; d6-DMSO): δ 3.75 (q, 2H), 4.43 (t, 2H), 7.09 (d, 1H), 7.31 (br. s, 1H), 7.39 (m, HA), 7.88-7.96 (m, 3H), 8.20 (d, 1H), 8.37 (dd, 1H), 8.47-8.57 (m, 1H), 8.64 (m, 1H), 8.71 (d, 1H), 13.90 (m, 1H).

reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | 300 mg | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C12H11N5O2
reactant | 3-(pyridine-2-yl)-1H-pyrazole-5-carboxylic acid | 161 mg | N1=C(C=CC=C1)C1=NNC(=C1)C(=O)O | C9H7N3O2
product | N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-2-yl)-1H-pyrazole-5-carboxamide | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)CCNC(=O)C1=CC(=NN1)C1=NC=CC=C1)[N+](=O)[O-] | C21H16N8O3
